US04472192
12.0 parts by weight of methyl 5-amino-1-(2,4,6-trichlorophenyl)-pyrazole-4-carboxylate, 24.0 parts by weight of 3-methylbut-2-enol and 0.5 parts by weight of sodium methylate were refluxed for 2 hours (complete conversion), while dry nitrogen was passed over. The excess alcohol was removed under a reduced pressure of from 0.5 to 1.0 mbar/50° C., and the residue was dissolved in 100 ml of ether and precipitated with dry hydrogen chloride gas. The hydrochloride was filtered off with suction and stirred with saturated sodium bicarbonate solution, and the precipitate was filtered off with suction and dried under reduced pressure at 50° C. to give 10.6 g of 3-methylbut-2-enyl 5-amino-1-(2,4,6-trichlorophenyl)-pyrazole-4-carboxylate of melting point 102°-105° C. (active ingredient No.10).

reactant | methyl 5-amino-1-(2,4,6-trichlorophenyl)-pyrazole-4-carboxylate | NC1=C(C=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C(=O)OC | C11H8Cl3N3O2
reactant | 3-methylbut-2-enol | CC(=CCO)C | C5H10O
reactant | sodium methylate | C[O-].[Na+]
product | 3-methylbut-2-enyl 5-amino-1-(2,4,6-trichlorophenyl)-pyrazole-4-carboxylate | 10.6 g | NC1=C(C=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C(=O)OCC=C(C)C | C15H14Cl3N3O2
